US05602075
19. Preparation of N-(2-Fluoro-4-methyl-3-pyridinyl)-6-bromo-8-methoxy[1,2,4]triazolo[1,5-a]pyrazine-2-sulfonamide
A solution of 1.36 g (4.14 mmol) of 6-bromo-2-chlorosulfonyl-8-methoxy[1,2,4]triazolo[1,5-a]pyrazine in 15 mL of dry acetonitrile was placed in a flask equipped with a drying tube and was treated sequentially with 1.56 g (12.4 mmol) of 3-amino-2-fluoro-4-methylpyridine, 0.34 mL (4.21 mmol) of pyridine and 60 μL (0.85 mmol) of dimethyl sulfoxide at room temperature. The reaction became progressively darker and after 15 hours the volatiles were removed by evaporation under reduced pressure and the residue was dissolved in dichloromethane. The resulting solution was washed with four portions of 1M hydrochloric acid and one portion of water and was dried over sodium sulfate. The solvent was then removed by evaporation under reduced pressure and the residue obtained was purified by flash column chromatography on silica gel using a 0.5 to 4 percent ethanol/dichloromethane gradient as eluent. The solid obtained was further purified by extraction with diethyl ether to obtain 373 mg (22 percent of theory) of the desired product as an off-white powder melting at 210°-211° C. (dec); Mass Spectrum, m/e 417 (M+1).

reactant | 6-bromo-2-chlorosulfonyl-8-methoxy[1,2,4]triazolo[1,5-a]pyrazine | 4.14 mmol, 1.36 g | BrC=1N=C(C=2N(C1)N=C(N2)S(=O)(=O)Cl)OC | C6H4BrClN4O3S
reactant | 3-amino-2-fluoro-4-methylpyridine | 12.4 mmol, 1.56 g | NC=1C(=NC=CC1C)F | C6H7FN2
reactant | pyridine | 4.21 mmol, 0.34 mL | N1=CC=CC=C1 | C5H5N
reactant | dimethyl sulfoxide | 0.85 mmol, 60 μL | CS(=O)C | C2H6OS
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | N-(2-Fluoro-4-methyl-3-pyridinyl)-6-bromo-8-methoxy[1,2,4]triazolo[1,5-a]pyrazine-2-sulfonamide | FC1=NC=CC(=C1NS(=O)(=O)C1=NN2C(C(=NC(=C2)Br)OC)=N1)C | C12H10BrFN6O3S
